US04105791
Synthesis of 4-[(Cyclooctylmethyl)amino]benzoic acid
Cyclooctane carboxaldehyde (14.72 g, 0.105 mole) was added dropwise to a stirred and refluxing mixture of 13.7 g (0.1 mole) p-aminobenzoic acid, 25 g zinc dust, 25 ml glacial acetic acid and 125 ml of benzene. Water which evolved was collected in a Dean-Stark trap as the reaction mass was refluxed overnight. Following the reflux period, the resulting product mass was filtered while still hot. Upon cooling the filtrate, crystals formed therein. The benzene was evaporated and the residue recrystallized from acetonitrile. The crude product weighed 18.77 g. It was decolorized and recrystallized from benzene. The resulting purified 4-[(cyclooctylmethyl)amino]benzoic acid product weighed 12.93 g. It had a melting point of 160°-162° C.

reactant | Cyclooctane carboxaldehyde | 0.105 mole, 14.72 g | C1(CCCCCCC1)C=O | C9H16O
reactant | p-aminobenzoic acid | 0.1 mole, 13.7 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 25 g | [Zn] | Zn
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | 4-[(Cyclooctylmethyl)amino]benzoic acid | C1(CCCCCCC1)CNC1=CC=C(C(=O)O)C=C1 | C16H23NO2
